US08445118B2
(13) Tantalum Catecholate (Molecular Weight: 451)
A solution of catechol (5.51 g, 50.0 mmol) and toluene (50 ml) was dehydrated by distilling 10 mL of the solution. Thereafter, 8.13 g (20.0 mmol) of tantalum(V) ethoxide was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 110° C. or higher, distilled until the amount of the solution became half. After the distillation, volatile components of the residual mixed solution were vaporized under reduced pressure by a rotary evaporator. The residual solid content was further heated to 100° C. under vacuum using a vacuum dryer so that the remaining volatile components were completely removed. The solid content (catechol-tantalum complex) was yellow in color. The yield amount was 9.02 g (20.0 mmol), and the yield percentage was 100%. 4.51 g of catechol-tantalum complex was dissolved into 100 mL of 1:4 acetylacetone/toluene to produce a coating liquid.

reactant | catechol | 50.0 mmol, 5.51 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | tantalum(V) ethoxide | 20.0 mmol, 8.13 g | [O-]CC.[Ta+5].[O-]CC.[O-]CC.[O-]CC.[O-]CC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Tantalum Catecholate | C=1([O-])C([O-])=CC=CC1.[Ta+5].C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.[Ta+5] | InChI=1S/5C6H6O2.2Ta/c5*7-5-3-1-2-4-6(5)8;;/h5*1-4,7-8H;;/q;;;;;2*+5/p-10
